US07247625B2
To a stirred suspension of 4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl boronic acid (3.97 g, 15.09 mmol) in a 15% acetone and 85% water mixture solution (80 mL) was added sodium bicarbonate (3.80 g, 45.27 mmol). The resulting suspension was cooled to 0° C. and Oxone (9.09 g, 14.80 mmol) was added portionwise over 20 minutes. After 45 minutes, sodium bisulfite (4.25 g, 4.10 mmol) was added. The solution was stirred for an additional 10 minutes, diluted with water and extracted several times with ethyl acetate. The organic layers were dried over magnesium sulfate and concentrated. Trituration with ether gave 4,4-diethyl-6-hydroxy-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one as a white solid (2.45 g, 69%). 1H NMR (DMSO-d6): δ 9.32 (s, 2H), 6.90 (d, J=8.8 Hz, 1H), 6.75 (dd, J=8.7, 2.6 Hz, 1H), 6.58 (d, J=2.7 Hz, 1H), 3.22 (s, 3H), 1.99 (m, 4H), 0.79 (t, J=7.3 Hz, 6H). MS (ESI) m/z 236 ([M+H]+); MS (ESI) m/z 234 ([M−H]−); Anal. calcd for C13H17NO3: C, 66.36; H, 7.28; N, 5.95. Found: C, 66.02; H, 7.34; N, 5.74.

reactant | 4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl boronic acid | 15.09 mmol, 3.97 g | C(C)C1(OC(N(C2=C1C=C(C=C2)B(O)O)C)=O)CC | C13H18BNO4
reactant | sodium bicarbonate | 45.27 mmol, 3.80 g | C([O-])(O)=O.[Na+]
reactant | Oxone | 14.80 mmol, 9.09 g | OOS(=O)[O-].[K+]
reactant | sodium bisulfite | 4.10 mmol, 4.25 g | S([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 4,4-diethyl-6-hydroxy-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 2.45 g, 69% | C(C)C1(OC(N(C2=C1C=C(C=C2)O)C)=O)CC | C13H17NO3
